US05885990
Preparation of 6-amidino-1-carboxymethyl-2-naphthol.
To 12.4 g of 6-amidino-1-carbamoylmethyl-2-naphthol was added 370 g of 25% hydrochloric acid, followed by stirring at 70° C. for 2.5 hours. After cooling with water, the precipitate was collected by filtration and washed with 80 g of 15% hydrochloric acid. The collected precipitate was added to a solution prepared by adding 200 ml of water to 10 g of sodium bicarbonate, followed by stirring for 1 hour at room temperature, and the resulting precipitate was collected by filtration and washed with water. This collected precipitate was added to a solution of 13 ml of methanesulfonic acid in 180 ml of water to dissolve the precipitate at 50° C. Furthermore, 1.0 g of active carbon was added to the solution, followed by stirring for 1 hour at room temperature. Thereafter, insoluble matter was filtered off and the filtrate was concentrated to 90 ml under reduced pressure. This solution was stirred for 24 hours under cooling with water. Then, the precipitate was collected by filtration and washed with a small amount of acetone and ether to obtain 12.3 g of the desired product.

reactant | 6-amidino-1-carbamoylmethyl-2-naphthol | 12.4 g | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O | C13H13N3O2
reactant | hydrochloric acid | 370 g | Cl | ClH
reactant | sodium bicarbonate | 10 g | C([O-])(O)=O.[Na+]
solvent | water | 200 ml | O | H2O
product | 6-amidino-1-carboxymethyl-2-naphthol | 12.3 g | C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(=O)O)O | C13H12N2O3
